US05929103
Synthesis of 4-phenyl-1-(N-ethoxycarbonylindoline-5-sulfonyl)-2-imidazolone
4-Phenyl-1-(indoline-5-sulfonyl)-2-imidazolone (150 mg, 0.44 mmol) prepared in Preparation 3 was dissolved in 10 m of dichloromethane and then pyridine (39 μ, 0.484 mmol) and ethylchloroformate (46 μ, 0.484 mmol) were added thereto one after another. After the reaction mixture was stirred for one hour at room temperature, it was diluted with dichloromethane and washed twice with brine. The organic layer thus obtained was dried over anhydrous magnesium sulfate, concentrated to an oily state under reduced pressure, and then purified by silica gel column chromatography (eluent:dichloromethane/methanol=15/1, v/v) to afford 173 mg of the title compound as a white solid.

reactant | 4-Phenyl-1-(indoline-5-sulfonyl)-2-imidazolone | 0.44 mmol, 150 mg | C1(=CC=CC=C1)C=1NC(N(C1)S(=O)(=O)C=1C=C2CCNC2=CC1)=O | C17H15N3O3S
reactant | pyridine | 0.484 mmol | N1=CC=CC=C1 | C5H5N
reactant | ethylchloroformate | 0.484 mmol | C(C)OC(=O)Cl | C3H5ClO2
solvent | dichloromethane | ClCCl | CH2Cl2
product | 4-phenyl-1-(N-ethoxycarbonylindoline-5-sulfonyl)-2-imidazolone | 173 mg, Yield: 96% | C1(=CC=CC=C1)C=1NC(N(C1)S(=O)(=O)C=1C=C2CCN(C2=CC1)C(=O)OCC)=O | C20H19N3O5S
